US08242313B2
[1-(3-Chloropyridin-2-yl)-5-(trichloromethyl)-1H-pyrazol-3-yl]methyl acetate
38.7 g of [1-(3-chloropyridin-2-yl)-5-hydroxy-5-(trichloromethyl)-4,5-dihydro-1H-pyrazol-3-yl]-methyl acetate were dissolved in 200 ml of methyl tert-butyl ether, and 12.6 g of oxalyl chloride were added dropwise within 2 h (vigorous evolution of gas). The mixture was stirred at 25° C. for a further 5 h and concentrated completely under reduced pressure.

reactant | [1-(3-chloropyridin-2-yl)-5-hydroxy-5-(trichloromethyl)-4,5-dihydro-1H-pyrazol-3-yl]-methyl acetate | 38.7 g | C(C)(=O)OCC1=NN(C(C1)(C(Cl)(Cl)Cl)O)C1=NC=CC=C1Cl | C12H11Cl4N3O3
reactant | oxalyl chloride | 12.6 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | methyl tert-butyl ether | 200 ml | C(C)(C)(C)OC | C5H12O
product | [1-(3-Chloropyridin-2-yl)-5-(trichloromethyl)-1H-pyrazol-3-yl]methyl acetate | C(C)(=O)OCC1=NN(C(=C1)C(Cl)(Cl)Cl)C1=NC=CC=C1Cl | C12H9Cl4N3O2
